US08802664B2
A screw-cap tube is charged with 2-[(3-bromophenyl)(1-methylpiperidin-4-yloxy)methyl]benzothiazole (208 mg), palladium bis(dibenzylideneacetone) (14 mg), Xantphos (14 mg), benzyl mercaptan (59 μL), diisopropylethylamine (174 μL) and 1,4-dioxane (2 mL). The tube is evacuated, filled with argon and sealed. After stirring at 120° C. for 15 h, the mixture is diluted with ethyl acetate and water and the aqueous phase is extracted with ethyl acetate. The pooled organic extracts are dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography (gradient dichloromethane/methanol/ammonia from 100/0/0 to 95/5/0.5). The residual yellowish oil is re-crystallized from hot acetonitrile to give 2-[(3-benzylsulfanylphenyl)(1-methylpiperidin-4-yloxy)methyl]benzothiazole melting at 195° C.

reactant | 2-[(3-bromophenyl)(1-methylpiperidin-4-yloxy)methyl]benzothiazole | 208 mg | BrC=1C=C(C=CC1)C(C=1SC2=C(N1)C=CC=C2)OC2CCN(CC2)C | C20H21BrN2OS
reactant | Xantphos | 14 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | benzyl mercaptan | 59 μL | C(C1=CC=CC=C1)S | C7H8S
reactant | diisopropylethylamine | 174 μL | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | palladium bis(dibenzylideneacetone) | 14 mg | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-[(3-benzylsulfanylphenyl)(1-methylpiperidin-4-yloxy)methyl]benzothiazole | C(C1=CC=CC=C1)SC=1C=C(C=CC1)C(C=1SC2=C(N1)C=CC=C2)OC2CCN(CC2)C | C27H28N2OS2
